US06509328B1
{4′-Fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2′-methoxymethoxy-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-2′-methoxymethoxy-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G42) (181 mg, 0.5 mmol) and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J10) (135 mg, 0.5 mmol) according to the general procedure K. Obtained as a yellow amorphous substance (221 mg).

reactant | (3-amino-4′-fluoro-2′-methoxymethoxy-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 181 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)OCOC)N)=O | C19H23FN2O4
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.5 mmol, 135 mg | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | {4′-Fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2′-methoxymethoxy-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)OCOC)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C31H31FN4O6
